US08138339B2
To a solution of 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxamide (62 mg, 0.15 mmol) in NMP (1 ml) was added 4-(2-(pyrrolidin-1-yl)ethoxy)aniline (31 mg, 0.15 mmol) and p-toluenesulfonic acid hydrate (28 mg, 0.15 mmol). It was heated at 100° C. for 4 h, and was purified by preparative HPLC to give 4-(1-methyl-1H-indol-4-ylamino)-2-(4-(2-(pyrrolidin-1-yl)ethoxy)phenylamino)pyrimidine-5-carboxamide (32 mg). MS found for C26H29N7O2 as (M+H)+ 472.4. UV: λ=216.9, 257.0.

reactant | 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxamide | 0.15 mmol, 62 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=C1C=CN(C1=CC=C2)C)C(=O)N | C20H16N8O2
reactant | 4-(2-(pyrrolidin-1-yl)ethoxy)aniline | 0.15 mmol, 31 mg | N1(CCCC1)CCOC1=CC=C(N)C=C1 | C12H18N2O
reactant | p-toluenesulfonic acid hydrate | 0.15 mmol, 28 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 4-(1-methyl-1H-indol-4-ylamino)-2-(4-(2-(pyrrolidin-1-yl)ethoxy)phenylamino)pyrimidine-5-carboxamide | 32 mg | CN1C=CC2=C(C=CC=C12)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)OCCN1CCCC1 | C26H29N7O2
